US07696213B2
(E)-Ethyl 3-(2-amino-4-(cis-4-(2-hydroxyethoxy)cyclohexylamino)-6-methylpyrimidin-5-yl)acrylate
In a sealed tube a solution of 2-(cis-4-(2-amino-5-bromo-6-methylpyrimidin-4-ylamino)cyclohexyloxy)ethanol (695 mg, 4.03 mmol) and ethyl acrylate (438 uL, 4.03 mmol) in triethylamine (10 mL) was bubbled with argon for ˜5 minutes. Tetrakis(triphenylphosphin)-palladium (0) (232 mg, 0.201 mmol) was added, the vial was sealed and the mixture was bubbled again with argon (5 minutes). The reaction was heated to 130° C. overnight, cooled to room temperature and concentrated. The residue was dissolved in chloroform (500 mL) and washed with water and brine, dried (MgSO4), filtered and concentrated. The crude product was purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0-4%) to afford the title compound (615 mg, 84%).

reactant | 2-(cis-4-(2-amino-5-bromo-6-methylpyrimidin-4-ylamino)cyclohexyloxy)ethanol | 4.03 mmol, 695 mg | NC1=NC(=C(C(=N1)N[C@H]1CC[C@H](CC1)OCCO)Br)C | C13H21BrN4O2
reactant | ethyl acrylate | 4.03 mmol, 438 uL | C(C=C)(=O)OCC | C5H8O2
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
catalyst | Tetrakis(triphenylphosphin)-palladium (0) | 0.201 mmol, 232 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | (E)-Ethyl 3-(2-amino-4-(cis-4-(2-hydroxyethoxy)cyclohexylamino)-6-methylpyrimidin-5-yl)acrylate | 615 mg, 84% | NC1=NC(=C(C(=N1)N[C@@H]1CC[C@@H](CC1)OCCO)/C=C/C(=O)OCC)C | C18H28N4O4
